datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:73][C:61](/[C:10](Cl)=[C:11](\[O-:12])[O:82]CC)=[O:62].C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>CC[O:73][C:61]([C:10](Cl)([C:11](=[O:12])[O:82]CC)[CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=CC=C1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[CH:20](C)[N:21]2C3=CC=CC=C3C3=C2C=CC=C3)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)CC1 10,11=10,20;12=11,12;20,21=21"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>C[N:23](C)[CH:22]=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1.C[N:220](C)[C:19]1=[CH:18][CH:17]=[C:16]([CH:15]=[C:14]2[CH:10]=[CH:11][CH:12]=[CH:13]2)[CH:67]=[CH:68]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[C:14]2[CH:15]=[C:16]2[CH:17]=[CH:18][C:19](=[N+:220](C)C)[CH:68]=[CH:67]2)[C:21]2=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14,15=13,14;16,17=15,16;18,19=17,18;20,21=21,22;22,23=23,24;220=19,220;24,25=25"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.[CH2:10]=[N+:11]([O-:12])[O-:62]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][N+:11](=[O:12])[O-:62])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64]2=[C:63](C=CC=C2)[N:62]1C>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64]2=[C:63](C=CC=C2)[N:62]1C)[CH:20]1CCCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC2=C(C=C1)[S:71](=[O:72])(=[O:92])[CH-:10][S:61]2(=[O:62])=[O:82].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCC2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[Si:11](C)([H:10])[CH2:62][Sn:63](C)(C)C>>C1=CC=C([C:22]2=[CH:21][CH:20]([H:10])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1.C[Si+:11](C)[CH2:62][Sn:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[H:10][CH:11]([CH:12]=[CH2:13])[CH:62]=[CH2:63]>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].[CH:11](=[CH:12][CH2+:13])[CH:62]=[CH2:63] 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.C[NH:10][NH:61]C>>C[NH+:10]([N:20]([N:21]=[C:22]([O-:23])[O:33]CC1=CC=CC=C1)[C:41](=[O:42])[O:43]CC1=CC=CC=C1)[NH:61]C 10=20;20,21=21,22;22,23=23"
"COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([S:10][C:61]3=[CH:62][CH:63]=[C:64](C)[CH:73]=[CH:72]3)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10=20;20,21=21,22;22,23=23"
"C[N:12]([C:11]1=[CH:10]CCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>C[N+:12](=[C:11]1CCC[CH:10]1[CH:20]([O:21]C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1 10,11=10,20;12=11,12;20,21=21"
